US07482341B2
Step C]: 5-(2,2,2-Trifluoro-ethoxymethyl)-pyridin-2-ylamine
This material was prepared in analogy to example 86 step B] from 2,2-dimethyl-N-[5-(2,2,2-trifluoro-ethoxymethyl)-pyridin-2-yl]-propionamide (0.56 g) and 3M aqueous NaOH (3.87 mL) as a crystalline white solid (0.123 g). MS (ESI): 207.1 (MH+).

reactant | 2,2-dimethyl-N-[5-(2,2,2-trifluoro-ethoxymethyl)-pyridin-2-yl]-propionamide | 0.56 g | CC(C(=O)NC1=NC=C(C=C1)COCC(F)(F)F)(C)C | C13H17F3N2O2
reactant | NaOH | 3M, 3.87 mL, 0.123 g | [OH-].[Na+]
product | 5-(2,2,2-Trifluoro-ethoxymethyl)-pyridin-2-ylamine | FC(COCC=1C=CC(=NC1)N)(F)F | C8H9F3N2O
